US05250522
(S)-4-t-Butoxycarbonylamino-5-(biphenyl-4-yl)-pentenoic acid ethyl ester (1.2 g, 3.03 mmol) is stirred for 1 hour in a 1/l mixture of trifluoroacetic acid and methylene chloride (10 mL). A saturated aqueous solution of sodium bicarbonate (10 mL) is added and the product is extracted in methylene chloride (20 mL). The organic layer is dried over anhydrous sodium sulfate, filtered and cooled to 0° under nitrogen. To that solution is added N,N-diisopropylethylamine (0.633 mL, 3.63 mmol) in methylene chloride (2 mL), followed by a solution of dimethylphosphonomethyl trifluoromethylsulfonate (Tetrahedron Lett., 1986, 1477; 907 mg, 3.33 mmol) in methylene chloride (2 mL). The mixture is stirred at room temperature for 18 hours. Water (20 mL) and methylene chloride (20 mL) are added. The organic layer is separated, dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. The residue is purified by flash-chromatography on silica gel, eluting with ethyl acetate to afford (S)-5-(biphenyl-4-yl)-4-[(dimethylphosphonomethyl)-amino]-2-pentenoic acid ethyl ester as a pale yellow oil (Rf=0.3 in EtOAc).

reactant | (S)-4-t-Butoxycarbonylamino-5-(biphenyl-4-yl)-pentenoic acid ethyl ester | 3.03 mmol, 1.2 g | C(C)OC(C=C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H29NO4
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium bicarbonate | 10 mL | C([O-])(O)=O.[Na+]
reactant | N,N-diisopropylethylamine | 3.63 mmol, 0.633 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | dimethylphosphonomethyl trifluoromethylsulfonate | 3.33 mmol, 907 mg | FC(F)(F)S(=O)(=O)OCP(=O)(OC)OC | C4H8F3O6PS
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 20 mL | O | H2O
product | (S)-5-(biphenyl-4-yl)-4-[(dimethylphosphonomethyl)-amino]-2-pentenoic acid ethyl ester | C(C)OC(C=C[C@H](CC1=CC=C(C=C1)C1=CC=CC=C1)NCP(=O)(OC)OC)=O | C22H28NO5P
